US05665748
A mixture of phosphorus pentoxide (P2O5) (12.9 g), hexamethyldisiloxane (29.5 g) and 1,2-dichlorobenzene was heated for 10 minutes under reflux. To the mixture were added ethyl 3-(3-amino-4-hydroxyphenyl)propionate (4.75 g) and 2-naphthylacetic acid (4.23 g). The mixture was heated for 3 hours under reflux. The reaction mixture was poured into water and allowed to extraction with ethyl acetate. The ethyl acetatae layer was washed with water and dried over magnesium sulfate. The solvent was distilled off, and the residue was subjected to silica gel column chromatography. From the fractions eluted with ethyl acetate-hexane (1:4, v/v), ethyl 3-[2-(2-naphthylmethyl)benzoxazol-5-yl]propionate (5.95 g, 73%) was obtained. Recrystallization from ether-isopropyl ether gave colorless needles. Melting point: 81°-82° C.

reactant | phosphorus pentoxide | 12.9 g | O=P12OP3(=O)OP(=O)(O1)OP(=O)(O2)O3 | O10P4
reactant | hexamethyldisiloxane | 29.5 g | C[Si](O[Si](C)(C)C)(C)C | C6H18OSi2
reactant | ethyl 3-(3-amino-4-hydroxyphenyl)propionate | 4.75 g | NC=1C=C(C=CC1O)CCC(=O)OCC | C11H15NO3
reactant | 2-naphthylacetic acid | 4.23 g | C1=C(C=CC2=CC=CC=C12)CC(=O)O | C12H10O2
solvent | water | O | H2O
solvent | 1,2-dichlorobenzene | ClC1=C(C=CC=C1)Cl | C6H4Cl2
product | ethyl 3-[2-(2-naphthylmethyl)benzoxazol-5-yl]propionate | 5.95 g, 73% | C1=C(C=CC2=CC=CC=C12)CC=1OC2=C(N1)C=C(C=C2)CCC(=O)OCC | C23H21NO3
